US05077329
Didodecyl P-[1-(N-Octadecyl-N-dodecyloxyamino)octadecyl]phosphonate
Following the procedure of Example 7, the title compound is prepared from 2.5 g (4.6 mmol) of N-(1-octadecylidene)-octadecylamine N-oxide, 2.9 g (5.0 mmol) of tri-n-dodecylphosphite, 3.0 g (10 mmol) of n-dodecyl iodide, 20 ml of acetonitrile and 40 ml of toluene by heating at 70° C. for 24 hours. The residue is purified by flash chromatography (10:1 hexane:ethyl acetate eluent) to give 1.5 g (29% yield) of the title compound as a white, low melting wax.

reactant | N-(1-octadecylidene)-octadecylamine N-oxide | 4.6 mmol, 2.5 g | C(CCCCCCCCCCCCCCCCC)=[N+](CCCCCCCCCCCCCCCCCC)[O-] | C36H73NO
reactant | tri-n-dodecylphosphite | 5.0 mmol, 2.9 g | C(CCCCCCCCCCC)OP(OCCCCCCCCCCCC)OCCCCCCCCCCCC | C36H75O3P
reactant | n-dodecyl iodide | 10 mmol, 3.0 g | C(CCCCCCCCCCC)I | C12H25I
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Didodecyl P-[1-(N-Octadecyl-N-dodecyloxyamino)octadecyl]phosphonate | 1.5 g, 29% yield | C(CCCCCCCCCCCCCCCCC)N(OCCCCCCCCCCCC)C(CCCCCCCCCCCCCCCCC)P(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)=O | C72H148NO4P
